US08981085B2
5-Chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (3.0 g, 9.18 mmol) was placed in THF (15 mL) at 0° C. TBAF (10.094 mL, 10.094 mmol) was added dropwise and stirred for 30 minutes. The reaction was then quenched with saturated aqueous NaHCO3 and extracted into DCM. The combined organic fractions were dried, filtered, and concentrated to give the crude product that was purified by column chromatography (500:6 DCM:MeOH) to give 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridine (1.4 g, 89% yield).

reactant | 5-Chloro-4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 9.18 mmol, 3.0 g | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)F | C16H24ClFN2Si
reactant | TBAF | 10.094 mmol, 10.094 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridine | 1.4 g, 89% yield | ClC=1C(=C2C(=NC1)NC=C2)F | C7H4ClFN2
